US07396429B2
The sodium octoate was prepared by stirring 3.60 g of octanoic acid in 3 g of water and neutralizing with 2.00 g of aqueous sodium hydroxide (50%). 5 g of water was used for dilution and rinse. A waxy solid formed which was dissolved by adding about 10 ml of ethanol. pH paper indicated a pH of about 8. The total solution was evaporated on a watch glass on a steam bath under a flow of nitrogen to give 4.04 g white solid. The solid was titrated in ethanol with aqueous HCl: the titer was 5.88 mmol/g. Estimated purity was 97.6%.

reactant | octanoic acid | 3.60 g | C(CCCCCCC)(=O)O | C8H16O2
reactant | sodium hydroxide | 2.00 g | [OH-].[Na+]
reactant | ethanol | about 10 ml | C(C)O | C2H6O
solvent | water | 3 g | O | H2O
solvent | water | 5 g | O | H2O
product | sodium octoate | CCCCCCCC(=O)[O-].[Na+] | InChI=1S/C8H16O2.Na/c1-2-3-4-5-6-7-8(9)10;/h2-7H2,1H3,(H,9,10);/q;+1/p-1
